US03997586
Using the procedure of Example I, 1-bromo-2-cyclobutylidene-ethane was reacted with sodium phenyl sulfinate to form (2-cyclobutylidene-ethyl)-phenyl sulfone having a melting point of 76° to 78° C which was then reacted with ethyl β,β-dimethylacrylate to form ethyl dl-trans 3,3-dimethyl-2-cyclobutylidenemethyl-cyclopropanecarboxylate. The said ethyl ester was hydrolyzed under alkaline conditions to form dl-trans 3,3-dimethyl-2-cyclobutylidenemethyl-cyclopropanecarboxylic acid.

reactant | 1-bromo-2-cyclobutylidene-ethane | BrCC=C1CCC1 | C6H9Br
reactant | sodium phenyl sulfinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
product | (2-cyclobutylidene-ethyl)-phenyl sulfone | C1(CCC1)=CCS(=O)(=O)C1=CC=CC=C1 | C12H14O2S
